US05104885
A stirred mixture of 8-amino-6-methoxy-4-methyl-5-[5-(2-thienyl) pentoxy] quinoline (4.00 g, 0.0108 mol) and 4-bromo-1-phthalimidopentane (BPP) (6.40 g, 0.0216 mol) was heated at 110°-115° C. while Et3N (4 ml) was slowly added during 25 min. After 4 h at 115°-120° C., more BPP (6.4 g, 0.0216 mol) and Et3N (2 ml during 10 min) were added and heating was continued for 4 h. A final batch of BPP (1.60 g, 0.0054 mol) and Et3N (1 ml during 5 min) were added and heating was continued for 2 h. On cooling, the mixture was extracted with Et2O (200 ml) leaving behind a gray residue. The extract was washed with H2O (2×75 ml), dried (Na2SO4) and concentrated to a black oil. The oil was dissolved in CHCl3 (12 ml), applied to a silica gel column and eluted with 5% EtOAc in hexane. After recovering the unreacted BPP, the eluting solvent was changed to 10% EtOAc in hexane. Product eluates were combined and concentrated to give 6-methoxy-4-methyl-8-(1-methyl-4-phthalimidobutylamino)-5-[5-(2-thienyl) pentoxy] quinoline as a thick orange-yellow oil, 5.57 g (87%). This material was used without further purification.

reactant | 8-amino-6-methoxy-4-methyl-5-[5-(2-thienyl) pentoxy] quinoline | 0.0108 mol, 4.00 g | NC=1C=C(C(=C2C(=CC=NC12)C)OCCCCCC=1SC=CC1)OC | C20H24N2O2S
reactant | 4-bromo-1-phthalimidopentane | 0.0216 mol, 6.40 g | BrC(CCCN1C(C=2C(C1=O)=CC=CC2)=O)C | C13H14BrNO2
reactant | BPP | 0.0216 mol, 6.4 g | BrC(CCCN1C(C=2C(C1=O)=CC=CC2)=O)C | C13H14BrNO2
reactant | BPP | 0.0054 mol, 1.60 g | BrC(CCCN1C(C=2C(C1=O)=CC=CC2)=O)C | C13H14BrNO2
solvent | Et3N | 1 ml | CCN(CC)CC | C6H15N
solvent | Et3N | 2 ml | CCN(CC)CC | C6H15N
solvent | Et3N | 4 ml | CCN(CC)CC | C6H15N
product | 6-methoxy-4-methyl-8-(1-methyl-4-phthalimidobutylamino)-5-[5-(2-thienyl) pentoxy] quinoline | COC=1C(=C2C(=CC=NC2=C(C1)NC(CCCN1C(C=2C(C1=O)=CC=CC2)=O)C)C)OCCCCCC=2SC=CC2 | C33H37N3O4S
